US07074800B1
A solution of 2-methyl-5-nitroindole (1 g, 5.7 mmol) in ethanol (25 ml) and THF (25 ml) containg 10% palladium on charcoal (128 mg) was hydrogenated until uptake of hydrogen ceased. The mixture was filtered and the filtrate was evaporated to give 5-amino-2-methylindole (830 mg, quant.).

reactant | 2-methyl-5-nitroindole | 5.7 mmol, 1 g | CC=1NC2=CC=C(C=C2C1)[N+](=O)[O-] | C9H8N2O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
catalyst | palladium on charcoal | 128 mg | [Pd] | Pd
product | 5-amino-2-methylindole | 830 mg | NC=1C=C2C=C(NC2=CC1)C | C9H10N2
